US05668291
2,2'-Dithiobis[N-(3,5-dichlorophenyl)benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (2.00 g, 5.83 mmol) in 50 mL of dichloromethane and 3,5-dichloroaniline (1.87 g, 11.7 mmol) in 15 mL of pyridine. The crude product was recrystallized from ethanol, then ethyl ether to yield 0.78 g of the title compound, mp 235°-236° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 5.83 mmol, 2.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 3,5-dichloroaniline | 11.7 mmol, 1.87 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-(3,5-dichlorophenyl)benzamide] | 0.78 g | ClC=1C=C(C=C(C1)Cl)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC(=CC(=C2)Cl)Cl)C=CC=C1)=O | C26H16Cl4N2O2S2
